US08377530B2
2,6-Naphthalenedicarboxamide (CAS #46711-49-3) was prepared as follows. To a two liter three neck round-bottom flask fitted with a mechanical stirrer, addition funnel and condenser/Dean Stark apparatus, with a nitrogen inlet was charged 85.4 grams (0.35 mol) dimethyl 2,6-naphthalenedicarboxylate, 105.3 grams (2.34 mol) formamide, and 200 mls of anhydrous N,N-dimethylformamide. The flask contents were heated to 100 degrees C. under a nitrogen atmosphere and held for one hour. One hundred ml of a 25 wt. % solution of sodium methoxide in methanol was added through the addition funnel in four approximately equal portions. The flask contents were then heated for four hours at 100 degrees C. during which time methanol was being condensed and removed. The flask was cooled to room temperature and one liter of isopropyl alcohol was added in two 500 ml increments. After the resulting mixture was stirred for 15 minutes it was allowed to settle for one hour. Crystallized solid material was collected by filtration and air dried in the filter for 2 hours. The recovered off-white colored product weighed 112.7 grams. The solid was washed three times in deionized water and twice in methanol which yielded 71.4 grams of greater than 98% pure product. Melting point: 347-349 degrees C.; 1H NMR: This compound is insoluble in all common NMR solvents and only sparingly soluble in DMSO-d6. (DMSO-d6) δ 8.53 ppm (broad s), 8.21 ppm (broad s), 8.07 ppm (complex multi. from 8.09−8.00 ppm), 7.55 ppm (broad s), also 3.38 ppm (water), and 2.51 (DMSO); MS m/z 214 [M].

reactant | dimethyl 2,6-naphthalenedicarboxylate | 0.35 mol, 85.4 grams | C1=C(C=CC2=CC(=CC=C12)C(=O)OC)C(=O)OC | C14H12O4
reactant | formamide | 2.34 mol, 105.3 grams | C(=O)N | CH3NO
reactant | N,N-dimethylformamide | 200 mls | CN(C=O)C | C3H7NO
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2,6-Naphthalenedicarboxamide | C1=C(C=CC2=CC(=CC=C12)C(=O)N)C(=O)N | C12H10N2O2
